US09238640B2
To a solution of 4-hydroxypiperidine (5.0 g, 49 mmol) in THF (70 mL) was added triethylamine (14.4 mL, 103 mmol) and dimethylcarbamyl chloride (9.0 mL, 98 mmol) slowly. The mixture was stirred at room temperature for 1.5 hours. The white precipitate was filtered off, washed with THF. The THF solution was concentrated to dryness then purified with column chromatography (SiO2, MeOH/CH2Cl2=1:19) to afford 4-hydroxypiperidine-1-carboxylic acid dimethylamide as colorless oil. Yield: 7.8 g (94%).

reactant | 4-hydroxypiperidine | 49 mmol, 5.0 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 103 mmol, 14.4 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 98 mmol, 9.0 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-hydroxypiperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)O)C | C8H16N2O2
